US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-fluorophenyl)piperazine (Compound 76)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(4-fluorophenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 90%). 1H NMR (300 MHz, CDCl3): δ 3.17 (s, 4H), 3.78-3.89 (m, 6H), 4.11-4.15 (m, 4H), 6.88-7.02 (m, 4H), 7.14-7.36 (m, 3H), 7.58-7.62 (m, 1H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(4-fluorophenyl)piperazine | 90% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC=C(C=C1)F)OC | C21H22FN5O3
